US07572820B2
4-(Trifluoromethyl)-1-({5-[4-(trifluoromethyl)phenyl]-1,2,4-oxadiazol-3-yl}methyl)-1H-indole-5-carbonitrile
Synthesized as described in Example 23 using 4-(trifluoromethyl)-1H-indole-5-carbonitrile and 3-(chloromethyl)-5-[4-(trifluoromethyl)phenyl]-1,2,4-oxadiazole: MS (ES) m/z 437 (M+1).

reactant | 4-(trifluoromethyl)-1H-indole-5-carbonitrile | FC(C1=C2C=CNC2=CC=C1C#N)(F)F | C10H5F3N2
reactant | 3-(chloromethyl)-5-[4-(trifluoromethyl)phenyl]-1,2,4-oxadiazole | ClCC1=NOC(=N1)C1=CC=C(C=C1)C(F)(F)F | C10H6ClF3N2O
product | 4-(Trifluoromethyl)-1-({5-[4-(trifluoromethyl)phenyl]-1,2,4-oxadiazol-3-yl}methyl)-1H-indole-5-carbonitrile | FC(C1=C2C=CN(C2=CC=C1C#N)CC1=NOC(=N1)C1=CC=C(C=C1)C(F)(F)F)(F)F | C20H10F6N4O
